US04906643
A mixture of 2.8 parts of 4-pyridinethiol, 1.2 parts of a sodium hydride dispersion 50% and 45 parts of phenol was stirred for 4 hours at room temperature. Then there were added 7.5 parts of cis-1-[3-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]propyl]-2,4,6-triphenylpyridinium tetrafluoroborate and 30 parts of phenol. Stirring was continued for 4 hours ar reflux. The reaction mixture was extracted five times with 100 parts of a hydrochloric acid solution 1N. The combined acid aqueous phases were treated with potassium hydroxide and extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography (HPLC) over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 0.88 parts (19%) of cis-4-amino-5-chloro-2 -methoxy-N-[3-methoxy-1-[3-(4-pyridinylthio)propyl]-4-piperidinyl]benzamide monohydrate; mp. 114.3° C. (compound 59).

reactant | 4-pyridinethiol | N1=CC=C(C=C1)S | C5H5NS
reactant | sodium hydride | [H-].[Na+]
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | cis-1-[3-[4-[(4-amino-5-chloro-2-methoxybenzoyl)amino]-3-methoxy-1-piperidinyl]propyl]-2,4,6-triphenylpyridinium tetrafluoroborate | F[B-](F)(F)F.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCC[N+]2=C(C=C(C=C2C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)OC)C=C1Cl)OC
product | cis-4-amino-5-chloro-2 -methoxy-N-[3-methoxy-1-[3-(4-pyridinylthio)propyl]-4-piperidinyl]benzamide monohydrate | 19% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCSC2=CC=NC=C2)OC)C=C1Cl)OC | InChI=1S/C22H29ClN4O3S.H2O/c1-29-20-13-18(24)17(23)12-16(20)22(28)26-19-6-10-27(14-21(19)30-2)9-3-11-31-15-4-7-25-8-5-15;/h4-5,7-8,12-13,19,21H,3,6,9-11,14,24H2,1-2H3,(H,26,28);1H2/t19-,21+;/m0./s1
